US04111937
3'-Carboxy-5'-nitrosuccinanilic Acid [F; Y is CH2CH2, Z is OH] was prepared by treating 3-succinimido-5-nitrobenzoic acid with warm dilute aqueous sodium hydroxide, and had the m.p. 220°-221° C.

reactant | 3-succinimido-5-nitrobenzoic acid | C1(CCC(N1C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-])=O)=O | C11H8N2O6
reactant | sodium hydroxide | [OH-].[Na+]
product | 3'-Carboxy-5'-nitrosuccinanilic Acid | C(=O)(O)C=1C=C(NC(CCC(=O)O)=O)C=C(C1)[N+](=O)[O-] | C11H10N2O7
